### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Comma): `Comma.fst L R` is final if `R` is

### PR DESCRIPTION
**Pull request by javra**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean [hunk 1]
```diff
@@ -81,14 +81,29 @@ lemma ι_leftKanExtensionObjIsoColimit_inv [HasLeftKanExtension L F] (X : D)
...
-    (f : CostructuredArrow L X) :
-    (L.lanUnit.app F).app f.left ≫ (L.lan.obj F).map f.hom ≫
+lemma ι_leftKanExtensionObjIsoColimit_hom (X : D) (f : CostructuredArrow L X) :
+    (L.leftKanExtensionUnit F).app f.left ≫ (L.leftKanExtension F).map f.hom ≫
       (L.leftKanExtensionObjIsoColimit F X).hom =
     Limits.colimit.ι (proj L X ⋙ F) f :=
   LeftExtension.IsPointwiseLeftKanExtensionAt.ι_isoColimit_hom (F := F)
     (isPointwiseLeftKanExtensionLeftKanExtensionUnit L F X) f
 
+lemma leftKanExtensionUnit_leftKanExtensionMap_leftKanExtensionObjIsoColimit_hom (X : D)
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean:91]: I guess this should be
```suggestion
lemma leftKanExtensionUnit_leftKanExtension_map_leftKanExtensionObjIsoColimit_hom (X : D)
```

File: Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean [hunk 2]
```diff
@@ -81,14 +81,29 @@ lemma ι_leftKanExtensionObjIsoColimit_inv [HasLeftKanExtension L F] (X : D)
...
+    (f : CostructuredArrow L X) :
+    (leftKanExtensionUnit L F).app f.left ≫ (leftKanExtension L F).map f.hom ≫
+       (L.leftKanExtensionObjIsoColimit F X).hom =
+    Limits.colimit.ι (proj L X ⋙ F) f :=
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean:95]:
```suggestion
    colimit.ι (proj L X ⋙ F) f :=
```
also appears elsewhere.

File: Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean [hunk 3]
```diff
@@ -81,14 +81,29 @@ lemma ι_leftKanExtensionObjIsoColimit_inv [HasLeftKanExtension L F] (X : D)
...
+    (isPointwiseLeftKanExtensionLeftKanExtensionUnit L F X) f
+
+@[reassoc (attr := simp)]
+lemma leftKanExtensionUnit_leftKanExtensionObjIsoColimit_hom (X : C) :
+    (L.leftKanExtensionUnit F).app X ≫ (L.leftKanExtensionObjIsoColimit F (L.obj X)).hom =
+    Limits.colimit.ι (proj L (L.obj X) ⋙ F) (CostructuredArrow.mk (𝟙 _)) := by
+  simpa using leftKanExtensionUnit_leftKanExtensionMap_leftKanExtensionObjIsoColimit_hom L F
+    (L.obj X) (CostructuredArrow.mk (𝟙 _))
+
+
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean:106]:
```suggestion
```

File: Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean [hunk 4]
```diff
@@ -187,6 +202,7 @@ variable [HasColimitsOfShape C H]
 /-- If `G : C ⥤ H` admits a left Kan extension along a functor `L : C ⥤ D` and `H` has colimits of
 shape `C` and `D`, then the colimit of `G` is isomorphic to the colimit of a canonical functor
 `Grothendieck (CostructuredArrow.functor L) ⥤ H` induced by `L` and `G`. -/
+@[simps! (config := .lemmasOnly)]
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Functor/KanExtension/Adjunction.lean:205]: I'm surprised this is useful. Are you sure that the lemmas below are not sufficient? My expectation would be that the coherence proof in `Final.lean` becomes simpler if you only use the lemmas below and do not "unfold" `colimitIsoColimitGrothendieck` in this way, because then you essentially have to reprove one of the lemmas below, but with a lot more stuff around that can make the automation go haywire.

File: Mathlib/CategoryTheory/Comma/Final.lean [hunk 5]
```diff
@@ -0,0 +1,59 @@
...
+
+namespace CategoryTheory
+
+namespace Comma
+
+open Limits Functor CostructuredArrow
+
+variable {A : Type v₁} [Category.{v₁} A]
+variable {B : Type v₁} [Category.{v₁} B]
+variable {T : Type v₁} [Category.{v₁} T]
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Comma/Final.lean:24]: As discussed, please check how much work it would be to generalize the universes here using `AsSmall` and either implement it or leave a comment here somewhere that the universes can be generalized.

File: Mathlib/CategoryTheory/Comma/Final.lean [hunk 6]
```diff
@@ -0,0 +1,69 @@
...
+  simp
+
+end Small
+
+variable {A : Type u₁} [Category.{v₁} A]
+variable {B : Type u₂} [Category.{v₂} B]
+variable {T : Type v₃} [Category.{v₃} T]
+variable (L : A ⥤ T) (R : B ⥤ T)
+
+lemma final_fst [R.Final] : (fst L R).Final := by
```
Comment (TwoFX) [inline Mathlib/CategoryTheory/Comma/Final.lean:53]: I'm surprised that we don't seem to have
```lean
import Mathlib

universe v₁ v₂ v₃ u₁ u₂ u₃

open Opposite

namespace CategoryTheory

variable {A : Type v₁} [Category.{v₁} A]
variable {B : Type v₁} [Category.{v₁} B]
variable {T : Type v₁} [Category.{v₁} T]
variable (L : A ⥤ T) (R : B ⥤ T)

@[simps]
def Comma.opFunctor : Comma L R ⥤ (Comma R.op L.op)ᵒᵖ where
  obj X := ⟨op X.right, op X.left, op X.hom⟩ 
  map f := ⟨op f.right, op f.left, Quiver.Hom.unop_inj (by simp)⟩

@[simps!]
def Comma.opFunctorCompFst :
    Comma.opFunctor L R ⋙ (Comma.fst _ _).op ≅
      Comma.snd _ _ ⋙ (opOpEquivalence _).inverse :=
  Iso.refl _

@[simps!]
def Comma.opFunctorCompSnd :
    Comma.opFunctor L R ⋙ (Comma.snd _ _).op ≅
      Comma.fst _ _ ⋙ (opOpEquivalence _).inverse :=
  Iso.refl _

@[simps]
def Comma.unopFunctor : Comma L.op R.op ⥤ (Comma R L)ᵒᵖ where
  obj X := ⟨X.right.unop, X.left.unop, X.hom.unop⟩ 
  map f := ⟨f.right.unop, f.left.unop, Quiver.Hom.op_inj (by simpa using f.w.symm)⟩

@[simps!]
def Comma.unopFunctorCompFst : Comma.unopFunctor L R ⋙ (Comma.fst _ _).op ≅ Comma.snd _ _ :=
  Iso.refl _

@[simps!]
def Comma.unopFunctorCompSnd : Comma.unopFunctor L R ⋙ (Comma.snd _ _).op ≅ Comma.fst _ _ :=
  Iso.refl _

@[simps]
def Comma.opEquiv : Comma L R ≌ (Comma R.op L.op)ᵒᵖ where
  functor := Comma.opFunctor L R
  inverse := (Comma.unopFunctor R L).leftOp
  unitIso := NatIso.ofComponents (fun X => Iso.refl _)
  counitIso := NatIso.ofComponents (fun X => Iso.refl _)

end CategoryTheory
```
but with this it should hopefully be able to deduce the dual statement about initial functors?

**Review by TwoFX — APPROVED** [review]
Looks good to me, but I wrote some of the code, so
maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
